US06596734B1
N-[1-(3,5-dibromo-4-methoxy-benzyl)-6-hydroxy-1,2,3,4-tetrahydro-isoquinolin-7-yl]-4-methyl-benzenesulfonamide hydrochloride.
N-[6-benzyloxy-1-(3,5-dibromo-4-methoxy-benzyl)-1,2,3,4-tetrahydro-isoquinolin-7-yl]-4-methyl-benzenesulfonamide oxalate (0.48 g, 0.00062 mol) was neutralized in a mixture 1N NaOH-methylene chloride. A free base was dissolved in a methanol—conc. HCl mixture (20 mL of each). The reaction mixture was refluxed for 1 h and evaporated. A residue was crystallized from methanol—ethyl ether mixture.

reactant | N-[6-benzyloxy-1-(3,5-dibromo-4-methoxy-benzyl)-1,2,3,4-tetrahydro-isoquinolin-7-yl]-4-methyl-benzenesulfonamide oxalate | 0.00062 mol, 0.48 g | C(C(=O)O)(=O)O.C(C1=CC=CC=C1)OC=1C=C2CCNC(C2=CC1NS(=O)(=O)C1=CC=C(C=C1)C)CC1=CC(=C(C(=C1)Br)OC)Br
reactant | NaOH methylene chloride | [OH-].[Na+].C(Cl)Cl
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | N-[1-(3,5-dibromo-4-methoxy-benzyl)-6-hydroxy-1,2,3,4-tetrahydro-isoquinolin-7-yl]-4-methyl-benzenesulfonamide hydrochloride | Cl.BrC=1C=C(CC2NCCC3=CC(=C(C=C23)NS(=O)(=O)C2=CC=C(C=C2)C)O)C=C(C1OC)Br | InChI=1S/C24H24Br2N2O4S.ClH/c1-14-3-5-17(6-4-14)33(30,31)28-22-13-18-16(12-23(22)29)7-8-27-21(18)11-15-9-19(25)24(32-2)20(26)10-15;/h3-6,9-10,12-13,21,27-29H,7-8,11H2,1-2H3;1H
